US05098928
2-{1-(4-Phenoxyphenyl)propan-1-ylidene}-1,3-dithiane (Compound No. 9)
2-Diethoxyphosphoryl-1,3-dithiane, 4.18 g, was dissolved in 40 ml of tetrahydrofuran and 10.5 ml of 1.6 mole hexane solution of n-butyl lithium was dropwise added to the solution in an argon flow at -65° C. The mixture was stirred at the same temperature for an hour. Then, a solution of 36.2 g of 4-phenoxypropiophenone in 15 ml of tetrahydrofuran was dropwise added to the mixture at the same temperature. The reaction mixture was gradually warmed to room temperature overnight. This suspension was poured onto saturated sodium chloride aqueous solution followed by extraction with chloroform. After drying the chloroform phase over magnesium sulfate, the solvent was distilled off under reduced pressure and the residue was purified by silica gel column chromatography (chloroform : hexane =1 : 1) to give 4.15 g of the product.

reactant | 2-Diethoxyphosphoryl-1,3-dithiane | C(C)OP(=O)(OCC)C1SCCCS1 | C8H17O3PS2
reactant | hexane | 1.6 mole, 10.5 ml | CCCCCC | C6H14
reactant | n-butyl lithium | C(CCC)[Li]
reactant | 4-phenoxypropiophenone | 36.2 g | C1=CC=C(C=C1)C(=O)CCOC2=CC=CC=C2 | C15H14O2
reactant | sodium chloride | [Cl-].[Na+]
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | 2-{1-(4-Phenoxyphenyl)propan-1-ylidene}-1,3-dithiane | 4.15 g, yield: 79% | O(C1=CC=CC=C1)C1=CC=C(C=C1)C(CC)=C1SCCCS1 | C19H20OS2
